US06562828B1
2-[N-[4-(1-tert-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-(4-methoxycarbonyl-benzoyl)aminomethyl]-5-cyano-1-(4-benzyloxyphenylcarbamoylmethyl)-benzimidazole
2-[N-[4-(1-tert-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-(4-methoxycarbonylbenzoyl)aminomethyl]-5-cyanobenzimidazole-1-acetic acid (632 mg), 1-hydroxybenzotriazole hydrate (128 mg), 4-benzyloxyaniline hydrochloride (223 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (182 mg) and N-methylmorpholine (0.104 ml) were treated in the same manner as in Example 17, Step 10. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:7-2:8) to give the title compound (605 mg).

reactant | 2-[N-[4-(1-tert-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-(4-methoxycarbonylbenzoyl)aminomethyl]-5-cyanobenzimidazole-1-acetic acid | 632 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)C(=O)OC)=O)CC1=NC2=C(N1CC(=O)O)C=CC(=C2)C#N | C36H37N5O8
reactant | 1-hydroxybenzotriazole hydrate | 128 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 4-benzyloxyaniline hydrochloride | 223 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 182 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 0.104 ml | CN1CCOCC1 | C5H11NO
product | 2-[N-[4-(1-tert-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-(4-methoxycarbonyl-benzoyl)aminomethyl]-5-cyano-1-(4-benzyloxyphenylcarbamoylmethyl)-benzimidazole | 605 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)C(=O)OC)=O)CC1=NC2=C(N1CC(NC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C=CC(=C2)C#N | C49H48N6O8
